US08232284B2
5-Bromo-2-nitropyridine (460 mg, 2.3 mmol) and sodium hydride (120 mg, 3.1 mmol) were added to an N,N-dimethylformamide suspension (10 ml) of 4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol (500 mg, 2.1 mmol), and stirred at 60° C. for 14 hours. The reaction solution was cooled to room temperature, the precipitate was collected by filtration, washed with water. The obtained precipitate was dried, then purified by silica gel column chromatography (chloroform:methanol=96:4) to obtain N-(1-methyl-1H-pyrazol-3-yl)-6-[(6-nitropyridin-3-yl)oxy]quinazoline-4-amine (580 mg, yield: 77%) as a pale yellow solid.

reactant | 5-Bromo-2-nitropyridine | 2.3 mmol, 460 mg | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | sodium hydride | 3.1 mmol, 120 mg | [H-].[Na+]
reactant | 4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol | 2.1 mmol, 500 mg | CN1N=C(C=C1)NC1=NC=NC2=CC=C(C=C12)O | C12H11N5O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(1-methyl-1H-pyrazol-3-yl)-6-[(6-nitropyridin-3-yl)oxy]quinazoline-4-amine | 580 mg, yield: 77% | CN1N=C(C=C1)NC1=NC=NC2=CC=C(C=C12)OC=1C=NC(=CC1)[N+](=O)[O-] | C17H13N7O3
